US06759429B2
Thiophene-3-caboxylic acid was treated with lithium diisopropylamide and iodine, and the resultant was reacted with (CH3)2SO4 in the presence of K2CO3 to give methyl 4-iodothiophene-3-carboxylate.

reactant | Thiophene-3-caboxylic acid | S1C=C(C=C1)C(=O)O | C5H4O2S
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | iodine | II | I2
reactant | (CH3)2SO4 | COS(=O)(=O)OC | C2H6O4S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | methyl 4-iodothiophene-3-carboxylate | IC=1C(=CSC1)C(=O)OC | C6H5IO2S
